US06268387B1
4-Methoxy-N-phenyl-3-(3-o-tolyl-thioureido)-benzamide
A mixture of 3-amino-4-methoxy-N-phenyl-benzamide (0.972 g, 4.00 mmol), 2-methylphenyl isothiocyanate (0.55 mL, 4.11 mmol, and ethyl acetate 20 mL) was allowed to stand at room temperature. After 4 days, the reaction was heated to 80° C. for 3 hours then allowed to stand at room temperature for an additional 5 days. Filtration afforded the product (0.804 g); m.p. 172-174° C.

reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 4.00 mmol, 0.972 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | 2-methylphenyl isothiocyanate | 4.11 mmol, 0.55 mL | CC1=C(C=CC=C1)N=C=S | C8H7NS
product | 4-Methoxy-N-phenyl-3-(3-o-tolyl-thioureido)-benzamide | 0.804 g | COC1=C(C=C(C(=O)NC2=CC=CC=C2)C=C1)NC(=S)NC1=C(C=CC=C1)C | C22H21N3O2S
